US09403807B2
Step G: N-(1-(1-(4-chlorophenyl)-1-(2-cyanocyclopropyl)propyl)-1H-indazol-4-yl)-N-((2-(trimethylsilyl)ethoxy)methyl)methanesulfonamide
A suspension of NaH (22 mg) in anhydrous DMSO (0.9 mL) was added trimethylsulfoxonium iodide (128 mg) at 0° C. and the mixture was stirred at rt for 3 h until the solution became clear. Then was added the solution of (E)-N-(1-(3-(4-chlorophenyl)-1-cyanopent-1-en-3-yl)-1H-indazol-4-yl)-N-((2-(trimethylsilyl)ethoxy)methyl)methanesulfonamide (42 mg) in anhydrous DMSO (0.1 mL) and the reaction mixture was stirred at 70° C. for 16 h. The solution was quenched with saturated NH4Cl solution, extracted with ethyl acetate (15 mL). The organic layer was washed with brine, dried over dry sodium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography (PE/EA=4/1) to afford the title compound as a white solid. LC/MS m/z=559.2 [M+H]+.

reactant | NaH | 22 mg | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 128 mg | [I-].C[S+](=O)(C)C
reactant | (E)-N-(1-(3-(4-chlorophenyl)-1-cyanopent-1-en-3-yl)-1H-indazol-4-yl)-N-((2-(trimethylsilyl)ethoxy)methyl)methanesulfonamide | 42 mg | ClC1=CC=C(C=C1)C(/C=C/C#N)(CC)N1N=CC2=C(C=CC=C12)N(S(=O)(=O)C)COCC[Si](C)(C)C | C26H33ClN4O3SSi
solvent | DMSO | 0.9 mL | CS(=O)C | C2H6OS
solvent | DMSO | 0.1 mL | CS(=O)C | C2H6OS
product | N-(1-(1-(4-chlorophenyl)-1-(2-cyanocyclopropyl)propyl)-1H-indazol-4-yl)-N-((2-(trimethylsilyl)ethoxy)methyl)methanesulfonamide | ClC1=CC=C(C=C1)C(CC)(C1C(C1)C#N)N1N=CC2=C(C=CC=C12)N(S(=O)(=O)C)COCC[Si](C)(C)C | C27H35ClN4O3SSi
